* Prob 3: Bridge
* EXPECTED TRUTH:
* i1 (i(v_sense_i1)) = 0.157136
* va (v(2))     = 11.6624
* vb (v(3))     = 20.2558

V_src 1_src 0 DC 24
V_sense_i1 1_src 1 DC 0

R_LT 1 2 150
R_LB 2 0 100

R_RT 1 3 50
R_RB 3 0 500

R_Br 2 3 250

.op
.print op v(2) v(3) i(v_sense_i1)
.end
